Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
Transesophageal Echocardiogram with cardioversion 

 
History of Present Illness:
Mr. ___ is a ___ man with history of hypertension, HFrEF
(EF 18%), paroxysmal supraventricular tachycardia, and
nonischemic cardiomyopathy who presents as transfer for
tachycardia requiring diltiazem drip. 

Patient reports that he woke up around 6AM with palpitations and
a rapid heart rate. He felt lightheaded but had no shortness of
breath or chest pain. He went to an outside hospital where he 
was
found to be in SVT. He converted after 12mg IV adenosine, had a
recurrent episode of SVT, was given 12mg IV adenosine again and
converted again but was then found to be in atrial fibrillation
(no history) with HR 110-120s. He received IV boluses of
diltiazem and was started on a dilt drip.

Of note, patient was recently hospitalized at ___ after presenting on ___ with dyspnea and leg
swelling x1 week. BNP 3172, TTE diagnosed new HFrEF with EF 18%.
Cath confirmed nonischemic cardiomyopathy. He was negative for
hepatitis C, iron overload, HIV, TSH, and it was thought that 
his
excessive alcohol use played a role. He had a few episodes of
paroxysmal supraventricular tachycardia while admitted and
carvedilol was started at 12.5mg BID. He was discharged on Lasix
20mg PO daily, Entresto (to replace hydral and iso) and an event
monitor to wear for one month. 

In the ED, after discussion with Atrius cardiology his dilt was
turned off given reduced EF and he was given IV metoprolol for
rate control. 
 
Past Medical History:
- Hypertension  
- ___ cath showed non obstructive coronary artery diseaese 
HFrEF EF18%
- paroxysmal supraventricular tachycardia
- gout 
 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
Admission Physical Exam: 
VS: 98.7PO 108 / 68L Lying 85 18 94 Ra
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 4 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: CTAB
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
plenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
eripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

Discharge Physical Exam: 
24 HR Data (last updated ___ @ 428)
    Temp: 97.6 (Tm 98.7), BP: 155/97 (106-155/69-97), HR: 98
(86-118), RR: 16 (___), O2 sat: 99% (97-99), O2 delivery: RA  
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not noted with patient at ___ 
CARDIAC: irregular rhythm, tachycardia Normal S1, S2. No 
murmurs,
rubs, or gallops. 
LUNGS: CTAB, no wheezes crackles or rhonchi. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
plenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
eripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
Admission Labs: 

___ 06:32PM BLOOD WBC-10.0 RBC-5.15 Hgb-14.4 Hct-44.3 
MCV-86 MCH-28.0 MCHC-32.5 RDW-15.3 RDWSD-47.7* Plt ___
___ 06:32PM BLOOD Neuts-58.2 ___ Monos-9.7 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-5.81 AbsLymp-2.97 AbsMono-0.97* 
AbsEos-0.16 AbsBaso-0.05
___ 06:32PM BLOOD ___ PTT-26.4 ___
___ 06:32PM BLOOD Glucose-100 UreaN-27* Creat-1.1 Na-140 
K-4.0 Cl-105 HCO3-20* AnGap-15
___ 06:32PM BLOOD cTropnT-0.12* proBNP-878*
___ 06:32PM BLOOD Calcium-7.9* Phos-4.6* Mg-2.1

Pertinent Interval Labs: 
___ 07:00AM BLOOD WBC-7.6 RBC-5.66 Hgb-16.3 Hct-48.7 MCV-86 
MCH-28.8 MCHC-33.5 RDW-15.0 RDWSD-47.3* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-100 UreaN-22* Creat-1.1 Na-141 
K-4.9 Cl-100 HCO3-25 AnGap-16
___ 01:19PM BLOOD CK-MB-5 cTropnT-0.10*
___ 07:00AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.1

Imaging Studies: 
Transeesophageal Echo: 
There is mild spontaneous echo contrast in the body of the left 
atrium and in the left atrial appendage.
No thrombus/mass is seen in the body of the left atrium/left 
atrial appendage. The left atrial appendage
ejection velocity is mildly depressed. No spontaneous echo 
contrast or thrombus is seen in the body of
the right atrium/right atrial appendage. There is no evidence 
for an atrial septal defect by 2D/color
Doppler. Overall left ventricular systolic function is 
depressed. The aortic valve leaflets (3) are mildly
thickened. No masses or vegetations are seen on the aortic 
valve. No abscess is seen. There is no aortic
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. No
masses or vegetations are seen on the mitral valve. No abscess 
is seen. There is mild [1+] mitral
regurgitation. The tricuspid valve leaflets appear structurally 
normal. No mass/vegetation are seen on the
tricuspid valve. No abscess is seen. There is mild [1+] 
tricuspid regurgitation.
IMPRESSION: No thrombus in the left atrium/left atrial 
appendage/right atrium/right atrial appendage
 
Brief Hospital Course:
Patient Summary Statement for Admission: 
=========================================
Mr. ___ is a ___ man with history of hypertension, HFrEF
(EF 18%), paroxysmal supraventricular tachycardia, and
nonischemic cardiomyopathy who presents as transfer for
tachycardia and new afib with major risk factors being HFrEF, 
HTN

# ATRIAL FIBRILLATION with RVR
Patient with a history of SVT at ___ that broke 
with adenosine 12 mg x2. He was in atrial fibrillation on 
admission with rates in 130-150s. He has no prior diagnosis of 
atrial fibrillation. Most likely etiology being his new heart 
failure. (CHF and hypertension history). CHADsVASC 2. He was 
initially on a diltiazem drip in
the emergency department, which was stopped transitioned to 25mg 
Metop PO q6hrs. His heart rates remained elevated to 110s-130s 
am ___ without BP room to increase metoprolol. Patient remained 
asymptomatic throughout. TEE with cardioversion was performed 
___ with successful conversion to sinus rhythm. He remained in 
sinus rhythm on through day of discharge. After cardioversion 
his metop was consolidated to 100mg q12hr. Decision was made on 
___ to transition to carvedilol 25mg BID which will be started 
in the evening of ___. For anticoagulation he was started on 
rivaroxaban. Patient was counseled regarding the importance of 
taking medication with food. 

# Chronic HFrEF (EF 18%)
Patient with recent diagnosis of heart failure with reduced 
ejection fraction at ___. Cardiac 
catheterization was without significant coronary artery disease. 
Etiology of his new heart failure is unknown. Patient was 
euvolemic on exam. He is at his dry weight of 176lbs. He 
reported taking 40mg Lasix daily at home which was continued 
while inpatient. He was continued on home entresto BID and was 
started on eplerenone. He is to take eplerenone every other day 
until demonstrated that his potassium is stable. He will require 
careful monitoring of potassium in the week after discharge. 

#Type II NSTEMI type II i/s/o of tachycardia 
Patient presented with troponin-T elevation to 0.12. This was 
considered to be demand ischemia in the setting of A. fib with 
RVR. There were no concerning ST changes on EKG. The troponins 
were trended to peak 0.16. 

Chronic Issues:
===============
# GOUT
- continued home allopurinol ___ daily

#History of SVT:
- appears to have h/o AVNRT in the past per review of 
cardiology. NO episodes of AVNRT while inpatient at ___. 

#Lung nodule on MRI
-4 mm pulmonary nodule, noted incidentally on cMRI will require
dedicated CT imaging as an outpatient. 

Transitional Issue: 
==================
[ ] Hx of AVNRT: does patient require ablation will have to 
assess if ablation indicated in the future
[ ] Started eplerenone will need K monitoring. Once K has been 
demonstrated to be stable can advance to daily. Please follow up 
complete metabolic panel on ___.
[ ] Monitoring of blood pressure: please ensure patient is not 
hypotensive on current regimen. Carvedilol was increased from 
home dosage. 
[ ] Consider ablation if A. Fib remains a problem for patient. 
If early reversion then may start amiodarone 400 TID x 10 g

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 420 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
4. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
5. Colchicine 1.2 mg PO PRN gout flare 
6. Allopurinol ___ mg PO DAILY 
7. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 

 
Discharge Medications:
1.  Eplerenone 25 mg PO EVERY OTHER DAY 
RX *eplerenone 25 mg 1 tablet(s) by mouth every other day Disp 
#*15 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily with 
dinner Disp #*30 Tablet Refills:*0 
3.  Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
5.  Allopurinol ___ mg PO DAILY  
6.  Colchicine 1.2 mg PO PRN gout flare  
7.  Furosemide 40 mg PO DAILY  
8.  Magnesium Oxide 420 mg PO DAILY  
9.  Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID  
10.Outpatient Lab Work
I50.2 
Lab Test: Basic Metabolic Profile, Calcium, Magnesium, PO4

Fax results to:    ___.  ___ fax number: 
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation with rapid ventricular response 
Heart Failure with reduced ejection fraction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___ 

It was a pleasure taking care of you while you were at ___, 

Why was I admitted to the hospital?
-Your heart was beating at a dangerously fast rate. This needed 
to be corrected. 

What happened while I was at the hospital? 
-We performed a procedure called a cardioversion to get your 
heart out of an unhealthy rhythm. Prior to performing the 
cardioversion we performed a transesophageal echocardiogram to 
make sure that you would not have a stroke while the 
cardioversion occurred. 
-Your heart returned to a normal rhythm after the cardioversion. 

-We adjusted your medications to treat your heart failure. 

What should I do when I go home? 
-Continue taking all of your medications as prescribed. 
-Have labs checked on ___ to make sure that your 
potassium is not elevated. 
-Keep all of your appointments with your doctors. 
 
Followup Instructions:
___